US04510143
A mixture of 500 mg of 1,5-dioxo-1,6-dihydropyrimido[1,2-a]-quinoxalin-2-carboxylic acid and 400 mg of carbonyldiimidazole in 20 ml of dimethylformamide was warmed over a steam bath for 15 minutes and then was cooled in an ice-bath and treated with 1.0 ml of a solution in dimethylformamide containing 1.1 g/10 ml of hydrazine hydrate overnight. The resultant mixture was filtered to obtain 500 mg (95% yield) of 1,5-dioxo-1,6-dihydropyrimido[1,2-a]quinoxaline-2-carbohydrazide melting at >300° C.

reactant | 1,5-dioxo-1,6-dihydropyrimido[1,2-a]-quinoxalin-2-carboxylic acid | 500 mg | O=C1C(=CN=C2N1C1=CC=CC=C1NC2=O)C(=O)O | C12H7N3O4
reactant | carbonyldiimidazole | 400 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydrazine hydrate | 10 ml | O.NN
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1.1 g | CN(C=O)C | C3H7NO
product | 1,5-dioxo-1,6-dihydropyrimido[1,2-a]quinoxaline-2-carbohydrazide | 500 mg, 95% yield | O=C1C(=CN=C2N1C1=CC=CC=C1NC2=O)C(=O)NN | C12H9N5O3
